US09328099B2
Step B. 1-Hydroxy-2-methylpropan-2-yl 4-{4-carbamoyl-3-[(4-fluorophenyl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate
To a solution of 1-methoxy-2-methyl-1-oxopropan-2-yl 4-{4-carbamoyl-3-[(4-fluorophenyl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate (70 mg, 0.14 mmol) in THF (1.9 mL) at ambient temperature was added LiBH4 (25 mg, 1.2 mmol). The mixture was allowed to stir at ambient temperature for 3 hours. The mixture was then diluted with EtOAc and saturated aqueous ammonium chloride. The organic layer was separated, washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-10% MeOH/EtOAc) to afford the title compound, Example 29.

reactant | 1-methoxy-2-methyl-1-oxopropan-2-yl 4-{4-carbamoyl-3-[(4-fluorophenyl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate | 0.14 mmol, 70 mg | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OC(C(=O)OC)(C)C)CC#N)NC1=CC=C(C=C1)F | C23H27FN6O5
reactant | LiBH4 | 1.2 mmol, 25 mg | [Li+].[BH4-]
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-Hydroxy-2-methylpropan-2-yl 4-{4-carbamoyl-3-[(4-fluorophenyl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OC(CO)(C)C)CC#N)NC1=CC=C(C=C1)F | C22H27FN6O4
